US07838521B2
A2. N-[(3R,4R)-3-(3-Ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-yl]-terephthalamic acid methyl ester
A mixture of 1 mmol of terephthalic acid monomethyl ester, 5 mmol of ethyl di-isopropylamine and 1.1 mmol of O-(Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluoro-phosphate (HBTU) in 20 ml of dichloromethane is stirred for 30 min at RT. After addition of 1.1 mmol of (3R,4R)-3-(3-ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-ylamine the suspension is stirred over night at RT. The mixture is concentrated under reduced pressure and the solid residue is purified by column chromatography on SiO2 (dichloromethane/ethyl acetate 85/15 vol/vol), the main product fraction is separated and concentrated yielding the title compound as grayish solid residue. M.p. 166-167.5° C.

reactant | terephthalic acid monomethyl ester | 1 mmol | COC(C1=CC=C(C(=O)O)C=C1)=O | C9H8O4
reactant | ethyl di-isopropylamine | 5 mmol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | O-(Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluoro-phosphate | 1.1 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (3R,4R)-3-(3-ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-ylamine | 1.1 mmol | C(C)OC=1C=C(C=CC1OC)[C@H]1COCC[C@H]1N | C14H21NO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[(3R,4R)-3-(3-Ethoxy-4-methoxy-phenyl)-tetrahydro-pyran-4-yl]-terephthalamic acid methyl ester | COC(C1=CC=C(C(=O)N[C@H]2[C@H](COCC2)C2=CC(=C(C=C2)OC)OCC)C=C1)=O | C23H27NO6
